US09351974B2
Step b: synthesis of (7R)-2-chloro-7-methyl-7,8-dihydropteridin-6(5H)-one
To a stirred solution of methyl N-(2-chloro-5-nitropyrimidin-4-yl)-D-alaninate (5 g, 19.2 mmol) in ethanol (400 mL) was added iron powder (7.14 g, 127 mmol). The resulted mixture was heated to reflux, followed by addition of 1M aqueous hydrochloric acid (15 ml) in small portions. The mixture was refluxed for 2 h. Then it was cooled to rt, the insoluble material was filtered off to give a clear solution. The solvent was evaporated to give a crude residue, which was then purified by silica gel flash chromatography (eluent: 5% methanol in dichloromethane) to give desired product (Yield: 81%). 1HNMR (300 MHz, DMSO d6): δ 1.34 (d, J=6.9 Hz, 3H), 4.22 (q, J=1.2 Hz, 1H), 7.50 (s, 1H), 8.45 (s, 1H) and 10.59 (s, 1H).

reactant | methyl N-(2-chloro-5-nitropyrimidin-4-yl)-D-alaninate | 19.2 mmol, 5 g | ClC1=NC=C(C(=N1)N[C@H](C)C(=O)OC)[N+](=O)[O-] | C8H9ClN4O4
reactant | hydrochloric acid | 1M, 15 ml | Cl | ClH
solvent | ethanol | 400 mL | C(C)O | C2H6O
catalyst | iron | 127 mmol, 7.14 g | [Fe] | Fe
product | (7R)-2-chloro-7-methyl-7,8-dihydropteridin-6(5H)-one | Yield: 81% | ClC1=NC=2N[C@@H](C(NC2C=N1)=O)C | C7H7ClN4O
